### PR TITLE
feat: add purity annotation

### PR DESCRIPTION
**Pull request by bollu**
Add a custom field into each `Op` that declares if its signature is pure or not. If it is pure, it returns `a`, and if impure, it returns `IO a`. The default signature object is pure.

### CODE REVIEW

File: SSA/Core/Framework.lean [hunk 1]
```diff
@@ -1219,10 +1232,444 @@ theorem denote_rewritePeephole (fuel : ℕ)
   simp[rewritePeephole, denote_rewritePeephole_go]
 end SimpPeepholeApplier
 
-section Unfoldings
+<<<<<<< Updated upstream
```
Comment (goens) [inline SSA/Core/Framework.lean:1235]: leftover from a merge?

File: SSA/Projects/InstCombine/Tactic.lean [hunk 2]
```diff
@@ -18,24 +18,37 @@ theorem bitvec_minus_one : BitVec.ofInt w (Int.negSucc 0) = (-1 : BitVec w) := b
   simp_all only [BitVec.getLsb'_not, BitVec.getLsb'_ofNat_zero, Bool.not_false, BitVec.ofNat_eq_ofNat, BitVec.neg_eq,
     BitVec.getLsb'_neg_ofNat_one]
 
+
+-- TODO: Do we call this dialect the "Alive" dialect (as hinted by the `simp_alive_peephole` name),
+--       or the "InstCombine" dialect (as hinted by the `InstCombine` namespace that everything
```
Comment (goens) [inline SSA/Projects/InstCombine/Tactic.lean:23]: in the paper we call it `LLVM` to add to the confusion :grinning:

**Comment by alexkeizer** [comment]
I merged main, and bumped the heartbeats one more, now it seems to be working locally

**Comment by bollu** [comment]
Nice! I flipped the state to ready to review. Since alex and I coauthored this, I think we need sign off from @tobiasgrosser @goens on this.

File: SSA/Core/Framework.lean [hunk 3]
```diff
@@ -2,97 +2,220 @@
...
-mutual
+/- # Datastructures -/
+section DataStructures
+
+variable (Op : Type) {Ty : Type} {m : Type → Type} [OpSignature Op Ty m]
 
-/-- A very simple intrinsically typed expression. -/
-inductive Expr : (Γ : Ctxt Ty) → (ty : Ty) → Type :=
+mutual
+/- An intrinsically typed expression whose effect is *at most* EffectKind -/
```
Comment (goens) [inline SSA/Core/Framework.lean:140]:
```suggestion
/-- An intrinsically typed expression whose effect is *at most* EffectKind -/
```

File: SSA/Core/Framework.lean [hunk 4]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
+
+@[simp] lemma Com.denoteImpure_body [Monad m] [OpDenote Op Ty m] {Γ : Ctxt Ty}
+    (e : Expr Op Γ eff te) (body : Com Op (Γ.snoc te) eff tbody) :
+  (Com.lete e body).denoteImpure =
+  fun Γv => e.denoteImpure Γv >>= fun x => body.denote (Γv.snoc x) := rfl
+
+@[simp] lemma Lets.denote_nil {Γ : Ctxt Ty} :
+    (Lets.nil : Lets Op Γ eff Γ).denote = (return ·) := by
+  funext; simp [denote]
+-- TODO: make `[simp]`
```
Comment (goens) [inline SSA/Core/Framework.lean:626]: I don't understand this TODO. What's preventing this from being `@[simp]`?

File: SSA/Core/Framework.lean [hunk 5]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
+-/
 
 def Expr.changeVars (varsMap : Γ.Hom Γ') :
-    {ty : Ty} → (e : Expr Op Γ ty) → Expr Op Γ' ty
-  | _, ⟨op, Eq.refl _, args, regArgs⟩ => ⟨op, rfl, args.map varsMap, regArgs⟩
+    {ty : Ty} → (e : Expr Op Γ eff ty) → Expr Op Γ' eff ty
+  | _, ⟨op, sig_eq, eff_leq, args, regArgs⟩ =>
+     ⟨op, sig_eq, eff_leq, args.map varsMap, regArgs⟩
+
+-- TODO: figure out what this comment means?
```
Comment (goens) [inline SSA/Core/Framework.lean:666]: I'd like to know as well :)

File: SSA/Core/Framework.lean [hunk 6]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
+@[simp] lemma Com.outContext_changeVars_hom {map : Γ.Hom Δ} (map_inv : Δ.Hom Γ) :
+    {c : Com Op Γ eff ty} → Ctxt.Hom (outContext (changeVars c map)) (outContext c)
+  | .ret _        => cast (by simp) map_inv
+  | .lete _ body  => cast (by simp) <|
+      Com.outContext_changeVars_hom (map := map.snocMap) map_inv.snocMap (c := body)
+
+-- @[simp] lemma Com.denoteLets_changeVars (map : Γ.Hom Δ) (c : Com Op Γ .pure ty) :
+--     (c.changeVars map).denoteLets = fun (V : Valuation Δ) =>
+--       (c.denoteLets (V.comap map)).comap (fun t' v' => v'.castCtxt (by simp)) := by
+--   sorry
```
Comment (goens) [inline SSA/Core/Framework.lean:726]: stray code? or something that needs to be finished later? (can we either uncomment or delete it?)

File: SSA/Core/Framework.lean [hunk 7]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
+--     Valuation.comap ((c.changeVars map).denoteLets Δv)
+--       (c.changeVars map).outContextHom = Δv := by
+--   funext t' v'
+--   simp only [Valuation.comap]
+--   induction c using Com.recPure generalizing Δ Δv
+--   case ret => rfl
+--   case lete ih =>
+--     stop
+--     rw [changeVars_lete, outContextHom_lete];
+--     simp
```
Comment (goens) [inline SSA/Core/Framework.lean:743]: What's the issue with this lemma? Why is it commented out?

File: SSA/Core/Framework.lean [hunk 8]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
-    (varsMap : Γ.Hom Γ') :
-    Com Op Γ ty → Com Op Γ' ty
-  | .ret e => .ret (varsMap e)
-  | .lete e body => .lete (e.changeVars varsMap)
-      (body.changeVars (fun t v => varsMap.snocMap v))
+/-- `FlatCom Γ eff Δ ty` represents a program as a sequence `Lets Γ eff Δ` and a `Var Δ ty`.
+This is isomorphic to `Com Γ eff ty`, where `Δ` is `com.outContext` -/
+structure FlatCom (Op : _) {Ty : _} [OpSignature Op Ty m]  (Γ_in : Ctxt Ty) (eff : EffectKind)
+    (Γ_out_new : Ctxt Ty) (ty : Ty) where
+--TODO: `Γ_out_new` should be named just `Γ_out`
```
Comment (goens) [inline SSA/Core/Framework.lean:760]: Why is this a TODO and not a change? What's the issue with doing it?

File: SSA/Core/Framework.lean [hunk 9]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
+  lets : Lets Op Γ_in eff Γ_out_new
+  ret : Var Γ_out_new ty
+
+--TODO: should this be a `@[simp] abbrev`, or just nuked altogether?
+/-- Denote the Lets of the FlatICom -/
+def FlatCom.denoteLets (flatCom : FlatCom Op Γ eff Γ_out t) (Γv : Γ.Valuation) :
+    eff.toMonad m <| Γ_out.Valuation :=
+  flatCom.lets.denote Γv
+
+--TODO: rename to `FlatCom.denote`
```
Comment (goens) [inline SSA/Core/Framework.lean:770]: Should we do this one too before merging? (seems simple enough)

File: SSA/Core/Framework.lean [hunk 10]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
+/-- Denote the lets and the ret of the FlatCom. This is equal to denoting the Com -/
+def FlatCom.denoteLetsRet [OpDenote Op Ty m] (flatCom : FlatCom Op Γ eff Γ_out t) (Γv : Γ.Valuation) :
+    eff.toMonad m (toType t) :=
+  flatCom.lets.denote Γv >>= fun Γ'v => return (Γ'v flatCom.ret)
+
+--TODO: deduplicate
```
Comment (goens) [inline SSA/Core/Framework.lean:776]: maybe we should do this before merging?

File: SSA/Core/Framework.lean [hunk 11]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
+
+-- lemma Expr.denote_impure_of_effectKind_eq_pure (e : Expr Op Γ .pure t)
+--     {ty} {ty_eq : ty = _} {args} {regArgs} :
+--     denote ⟨op, ty_eq, heff_impure, args, regArgs⟩
+--     = fun V => pure (denote ⟨op, ty_eq, heff, args, regArgs⟩ V) := by
+--   sorry
+
+-- lemma EffectKind.liftEffect_pure (h : eff ≤ EffectKind.pure) :
+--     EffectKind.liftEffect h (m:=m) f = fun x => f (cast _ x) := by
+--   sorry
```
Comment (goens) [inline SSA/Core/Framework.lean:953]: Can we uncomment or delete these?

File: SSA/Core/Framework.lean [hunk 12]
```diff
@@ -220,282 +590,717 @@ args, since there now are equation lemmas for it.
...
-  ret : Var Γ_out t
-
-def Com.toLets {t : Ty} : Com Op Γ t → FlatCom Op Γ t :=
-  go .nil
-where
-  go {Γ_out} (lets : Lets Op Γ Γ_out) : Com Op Γ_out t → FlatCom Op Γ t
-    | .ret v => ⟨lets, v⟩
-    | .lete e body => go (lets.lete e) body
 
+-- TODO: this doesn't morally fit here, but we can't yoink it up, figure out what to do
```
Comment (goens) [inline SSA/Core/Framework.lean:1053]: IMO we should probably split this file up anyway (but that's maybe a question for later)

File: SSA/Core/Framework.lean [hunk 13]
```diff
@@ -618,68 +1499,289 @@ theorem HVector.map_eq_of_eq_on_vars {A : Ty → Type*}
...
+--     We could fix it by saying the valuations need to agree on all variables that are used in `lets`,
+--     but maybe it's not worth it, given that the theorem is unused
+--   -/
+-- theorem Lets.denote_eq_of_eq_on_vars [LawfulMonad m] (lets : Lets Op Γ_in eff Γ_out)
+--     (v : Var Γ_out t)
+--     {s₁ s₂ : Valuation Γ_in}
+--     (h : ∀ w, w ∈ lets.vars v → s₁ w.2 = s₂ w.2) :
+--     (lets.denote s₁) >>= (fun Γv => return v.denote Γv) =
+--     (lets.denote s₂) >>= (fun Γv => return v.denote Γv) := by
+--   simpa using denote_eq_of_eq_on_vars_aux lets v h pure
```
Comment (goens) [inline SSA/Core/Framework.lean:1573]: Why are we keeping this around? (It might be worth having the counterexample be an `example` and made explicit, I guess?)

File: SSA/Core/Framework.lean [hunk 14]
```diff
@@ -618,68 +1499,289 @@ theorem HVector.map_eq_of_eq_on_vars {A : Ty → Type*}
...
+/-!
+## Expression Trees
+Morally, a pure `Com` can be represented as just a tree of expressions.
+We use this intuition to explain what `matchVar` does, but first we give a semi-formal definition
+of `ExprTree` and its operations.
+-/
 
-def Com.vars : Com Op Γ t → VarSet Γ :=
-  fun com => com.toLets.lets.vars com.toLets.ret
+#check Expr
```
Comment (goens) [inline SSA/Core/Framework.lean:1582]:
```suggestion
```

File: SSA/Core/Framework.lean [hunk 15]
```diff
@@ -784,193 +1956,391 @@ theorem denote_matchVar_matchArg [DecidableEq Op]
...
+--             apply hmem
+--           · exact (fun _ _ _ _ _ h => subset_entries_matchVar h)
+--         · dsimp at hop
+--           subst hop
+--           rfl
+-- -/
+
+section DenoteIntoSubtype
+
+/- TODO: we might not need `denoteIntoSubtype`, if we can proof that `V ∈ supp (lets.denote _)`
```
Comment (goens) [inline SSA/Core/Framework.lean:2052]:
```suggestion
/- TODO: we might not need `denoteIntoSubtype`, if we can prove that `V ∈ supp (lets.denote _)`
```

**Review by goens — APPROVED** [review]
Thanks @alexkeizer and @bollu for the heroic effort here! It's nice that you've also documented things well in this PR. Overall, I'm happy with it. I've left a few comments here that are small to address. 

There's a bunch of TODO's introduced by this PR, and it's certainly not worth doing them all right now. It would be nice to have maybe an issue tracking the cleanup of this and all the TODO's, so we don't forget to do it afterwards?

File: SSA/Core/EffectKind.lean [hunk 16]
```diff
@@ -0,0 +1,208 @@
...
+@[simp] theorem liftEffect_rfl [Monad m] (hle : eff ≤ eff) :
+    liftEffect hle (α := α) (m := m) = id := by cases eff <;> rfl
+
+@[deprecated liftEffect_rfl]
+theorem liftEffect_pure_pure [Monad m] (hle : pure ≤ pure) :
+    liftEffect hle (α := α) (m := m) = id :=
+  rfl
+
+@[simp] theorem liftEffect_pure_impure [Monad m] (hle : pure ≤ impure) :
+    liftEffect hle (α := α) (m := m) = Pure.pure :=
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/EffectKind.lean:171]: @goens , @alexkeizer told me that there are situations where proof are not "really irrelevant", so we take the theorem as a parameter. Maybe we can make this a default argument instead?

File: SSA/Core/Examples.lean [hunk 17]
```diff
@@ -29,41 +29,46 @@ inductive ExOp :  Type
   | cst : ℕ → ExOp
   deriving DecidableEq, Repr
 
-instance : OpSignature ExOp ExTy where
+instance : OpSignature ExOp ExTy Id where
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/Examples.lean:32]: Agreed, Tracked by issue https://github.com/opencompl/ssa/issues/250

File: SSA/Core/Examples.lean [hunk 18]
```diff
@@ -389,7 +401,12 @@ def p2 : PeepholeRewrite ExOp [.nat] .nat:=
       funext Γv
       simp_peephole [add, rgn] at Γv
       simp
-      done
+      sorry
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/Examples.lean:404]: Tracked at https://github.com/opencompl/ssa/issues/251

File: SSA/Core/Framework.lean [hunk 19]
```diff
@@ -2,97 +2,220 @@
...
+  sig        : List Ty
+  regSig     : RegionSignature Ty
+  outTy      : Ty
+  effectKind : EffectKind := .pure
 
-class OpSignature (Op : Type) (Ty : outParam (Type)) where
+abbrev Signature.mk (sig : List Ty) (regSig : RegionSignature Ty) (outTy : Ty) : Signature Ty :=
+ { sig := sig, regSig := regSig, outTy := outTy }
+
+--TODO: introduce a `Dialect` structure to bundle `Op`, `Ty` and `m`
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/Framework.lean:70]: Tracked at https://github.com/opencompl/ssa/issues/252

File: SSA/Core/EffectKind.lean (hunk 16 above)
[the remark this answers is not in the document]
Comment (goens) [reply SSA/Core/EffectKind.lean:171]: Oh is this about `simp` and how the proof looks like syntactically? It would be nice to understand that better, but I don't want this to block this merge. I made an issue (#253) to keep track of this one.

**Comment by tobiasgrosser** [comment]
I think we should address https://github.com/opencompl/ssa/issues/250 in this very PR, if possible, as it will minimize the diff of this PR quite a bit.

**Comment by alexkeizer** [comment]
I'm not sure we should block this PR on #250, since the solution is not uncontroversially clear (unless @bollu agrees with my counter-proposal)

File: SSA/Core/EffectKind.lean [hunk 20]
```diff
@@ -0,0 +1,208 @@
...
+
+section Instances
+variable {e : EffectKind} {m : Type → Type}
+
+/-!
+NOTE: The `Monad` instance below also implies `Functor`, `Applicative`, etc.
+If `m` is a `Functor`, but not a full `Monad`, then `e.toMonad m` should still be a functor too.
+However, actually having these instances causes diamond problems with the aforementioned instances
+implied by `Monad`. Thus, we just assume `m` is always a monad.
+-/
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/EffectKind.lean:32]: @goens principle of least privilege :) One can call `toMonad` even when `m` is not necessarily a monad. So, I'd rather not add a `[Monad m]` constraint on `toMonad`.

File: SSA/Core/EffectKind.lean [hunk 21]
```diff
@@ -0,0 +1,208 @@
...
+    MonadLiftT (e1.toMonad m) (e2.toMonad m) where
+  monadLift := liftEffect h
+
+instance (eff : EffectKind) {m} [Monad m] : MonadLiftT (eff.toMonad m) m :=
+  instMonadLiftOfLe (le_impure eff)
+
+@[simp] theorem liftEffect_rfl [Monad m] (hle : eff ≤ eff) :
+    liftEffect hle (α := α) (m := m) = id := by cases eff <;> rfl
+
+@[deprecated liftEffect_rfl]
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/EffectKind.lean]: Resolved, removed the deprecated `liftEffect_pure_pure`.

File: SSA/Core/EffectKind.lean (hunk 16 above)
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/EffectKind.lean:166]: Resolving conversation.

File: SSA/Core/ErasedContext.lean [hunk 22]
```diff
@@ -393,6 +458,10 @@ def unSnoc (d : Diff (Γ₁.snoc t) Γ₂) : Diff Γ₁ Γ₂ :=
     rw[←h_get_d h_get, Nat.add_assoc, Nat.add_comm 1, get?]
   ⟩
 
+/-!
+### `toMap`
+-/
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/ErasedContext.lean:466]: @goens I am not sure what this comment means.

File: SSA/Core/Framework.lean (hunk 4 above)
Comment (bollu) [reply SSA/Core/Framework.lean]: As the author of the comment, neither do I, so I nuked it.

File: SSA/Core/Framework.lean (hunk 5 above)
Comment (bollu) [reply SSA/Core/Framework.lean:681]: As the author of the comment, neither do I, so I deleted the comment :D

File: SSA/Core/Framework.lean (hunk 6 above)
Comment (bollu) [reply SSA/Core/Framework.lean]: IIRC, this was a proof strategy that we did not pursue. Removed for the sake of cleanliness.

File: SSA/Core/Framework.lean (hunk 7 above)
Comment (bollu) [reply SSA/Core/Framework.lean]: Proof strategy that was not pursused. Removed for cleanliness.

File: SSA/Core/Framework.lean (hunk 8 above)
Comment (bollu) [reply SSA/Core/Framework.lean:755]: done.

File: SSA/Core/Framework.lean (hunk 10 above)
Comment (bollu) [reply SSA/Core/Framework.lean:771]: done.

File: SSA/Core/Framework.lean (hunk 9 above)
Comment (bollu) [reply SSA/Core/Framework.lean:765]: done.

File: SSA/Core/Framework.lean (hunk 12 above)
Comment (bollu) [reply SSA/Core/Framework.lean:1041]: Yes, let's do this post-merge, please!

File: SSA/Core/Framework.lean [hunk 23]
```diff
@@ -532,52 +1336,134 @@ def DialectMorphism.preserves_outTy (op : Op) :
...
 
-def HVector.vars {l : List Ty}
-    (T : HVector (Var Γ) l) : VarSet Γ :=
+-- TODO: `HVector.toVarSet` and `HVector.vars` do the same thing, deduplicate
+def HVector.vars {l : List Ty} (T : HVector (Var Γ) l) : VarSet Γ :=
   T.foldl (fun _ s a => insert ⟨_, a⟩ s) ∅
 
-@[simp]
-theorem HVector.vars_nil :
+--TODO: find a name that better encapsulates that it's the *transitive* closure
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/Framework.lean:1417]: @goens This is a good refactor, but to be consistent, we would need to change a *lot* of names of lemmas, theorems, and other definitions that use the `vars` terminology right now. I'd suggest doing this after.

File: SSA/Core/EffectKind.lean (hunk 16 above)
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/EffectKind.lean:166]: Resolving, since we are tracking this as an issue now.

File: SSA/Core/Framework.lean [hunk 24]
```diff
@@ -532,52 +1336,134 @@ def DialectMorphism.preserves_outTy (op : Op) :
...
-      ⟩
-
-  /-- Inline of `HVector.map'` for the termination checker -/
-  def HVector.mapDialectMorphism : ∀ {regSig : RegionSignature Ty},
-      HVector (fun t => Com Op t.fst t.snd) regSig
-      → HVector (fun t => Com Op' t.fst t.snd) (f.mapTy <$> regSig : RegionSignature _)
-    | _, .nil        => .nil
-    | t::_, .cons a as  => .cons a.map (HVector.mapDialectMorphism as)
+
+-- TODO: `map` is ambiguous, rename it to `changeDialect` (to mirror `changeVars`)
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/Framework.lean:1323]: done.

File: SSA/Core/ErasedContext.lean (hunk 22 above)
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Core/ErasedContext.lean:466]: Resolved over at Zulip
